US06809199B2
Step C: 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-3-methyl-7-(2-piperidin-1-ylethoxy)-3,4-dihydroquinolin-2(1H)-one
The title compound was prepared from 7 mg of 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-hydroxy-3-methyl-3,4-dihydroquinolin-2(1H)-one, 40 mg of Ph3P, 20 μL of 1-piperidine ethanol, and 20 μL of diethyl azodicarboxylate by a procedure analogous to that described in EXAMPLE 2. Mass spectrum (ESI) 545 (M+1).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-hydroxy-3-methyl-3,4-dihydroquinolin-2(1H)-one | 7 mg | ClC1=C(C=CC=C1)C1=C2CC(C(N(C2=CC(=C1)O)C1=C(C=CC=C1Cl)Cl)=O)C | C22H16Cl3NO2
reactant | Ph3P | 40 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 1-piperidine ethanol | 20 μL | N1(CCCCC1)CCO | C7H15NO
solvent | diethyl azodicarboxylate | 20 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-(2-Chlorophenyl)-1-(2,6-dichlorophenyl)-3-methyl-7-(2-piperidin-1-ylethoxy)-3,4-dihydroquinolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CC(C(N(C2=CC(=C1)OCCN1CCCCC1)C1=C(C=CC=C1Cl)Cl)=O)C | C29H29Cl3N2O2
